Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p fall out of chair with left leg pain
 
Major Surgical or Invasive Procedure:
___:  Removal of hardware and IM nail left hip

 
History of Present Illness:
Ms. ___ is a ___ year old female who on ___ fell getting 
out of a chair.  She was taken to ___ and 
found to have a left femoral neck fracture around old hardware.  
She was then transferred on ___ to the ___ for further 
care.
 
Past Medical History:
s/p L hip fixation (universal slotted stainless steel nail) 
___ years ago
HTN
Eczema
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Upon admission

Alert and oriented

Cardiac:  Regular rate
Chest:  Lungs clear bilaterally
Abdomen:  Soft non-tender non-distended
Extremities:  LLE, mild erythmia, shortened, no rotation, 
+pulses/sensation.
 
Brief Hospital Course:
Ms. ___ presented to the ___ on ___ via transfer from 
___ with a femoral neck fracture around 
old hardware.  She was admitted, consented, and prepped for 
surgery.  Later that day she was taken to the operating room and 
underwent a removal of her left femur hardware and TFN to her 
left hip fracture.  She tolerated the procedure well, was 
extubated, transferred to the recovery room, and then to the 
floor.  On the floor she was seen by physical therapy to improve 
her strength and mobility.

The rest of her hospital stay was uneventful with her lab data 
and vital signs within normal limits and her pain controlled.  
She is being discharged today in stable condition.
 
Medications on Admission:
Lasix
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left femoral neck fracture

 
Discharge Condition:
Stable

 
Discharge Instructions:
Continue to be weight bearing as tolerated on your left leg.

Continue to take your lovenox injections as instructed for a 
total of 4 weeks after surgery

Please take all your medications as prescribed

If you have any increased redness, drainage, or swelling, or if 
you have a temperature greater than 101.5, please call the 
office or come to the emergency department.
Physical Therapy:
Activity:  As tolerated
 Left lower extremity:  Full weight bearing

Treatments Frequency:
Staples/sutures out 14 days after surgery 
 
Followup Instructions:
___